US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 5-methyl-3-phenyl-4-isoxazolamine were reacted to yield N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-phenyl-5-methylisoxazol-4-yl)-2,4-pyrimidinediamine. LCMS: ret. time: 20.90 min.; purity: 96%; MS (m/e): 420 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 5-methyl-3-phenyl-4-isoxazolamine | CC1=C(C(=NO1)C1=CC=CC=C1)N | C10H10N2O
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-phenyl-5-methylisoxazol-4-yl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C(=NOC1C)C1=CC=CC=C1 | C22H18FN5O3
